US06277861B1
(±) 5-Amino-2-(t-butoxycarbonyl)-1-methyl-1,2,3,4-tetrahydroisoquinoline
5-Amino-1-methyl-1,2,3,4-tetrahydroisoquinoline (0.39 g, 2.4 mmol) was dissolved in 1,4-dioxane (25 ml) and sodium hydroxide solution (3M, 0.8 ml) and cooled in an ice bath. The di-t-butyldicarbonate (0.53 g, 2.4 mmol) was added and the mixture stirred at room temp for 2 h. The mixture was then poured into water and extracted with ether. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford a white solid. (0.251 g).

reactant | 5-Amino-1-methyl-1,2,3,4-tetrahydroisoquinoline | 2.4 mmol, 0.39 g | NC1=C2CCNC(C2=CC=C1)C | C10H14N2
reactant | sodium hydroxide | 3M, 0.8 ml | [OH-].[Na+]
reactant | di-t-butyldicarbonate | 2.4 mmol, 0.53 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | (±) 5-Amino-2-(t-butoxycarbonyl)-1-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(C(C2=CC=C1)C)C(=O)OC(C)(C)C | C15H22N2O2
